US08895566B2
1-((1E)-2-Nitrovinyl)-4-chlorobenzene (0.206 g, 1.12 mmol) was added to a solution of 6-bromoindole (0.200 g, 1.02 mmol) in methanol (5 mL), followed by the addition of sufamic acid (39.6 mg, 0.40 mmol). The mixture was stirred at 80° C. for 16 hours. The mixture was concentrated then diluted with EtOAc (15 mL) and washed with H2O (15 mL). The organic layer was dried (Na2SO4), filtered and concentrated. The crude product was purified by silica gel chromatography, eluting with EtOAc/hexane (0-50%) to give 6-bromo-3-(1-(4-chlorophenyl)-2-nitroethyl)-1H-indole (0.175 g, 45.2%). 1H NMR (CDCl3, 400 MHz) δ 8.12 (s, 1H), 7.51 (s, 1H), 7.28 (d, J=8.5 Hz, 2H), 7.25-7.20 (m, 3H), 7.17 (d, J=8.5 Hz, 1H), 7.15 (s, 1H), 5.12 (t, 1H), 5.01 (q, 1H), 4.88 (q, 1H).

reactant | 1-((1E)-2-Nitrovinyl)-4-chlorobenzene | 1.12 mmol, 0.206 g | [N+](=O)([O-])/C=C/C1=CC=C(C=C1)Cl | C8H6ClNO2
reactant | 6-bromoindole | 1.02 mmol, 0.200 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
solvent | methanol | 5 mL | CO | CH4O
product | 6-bromo-3-(1-(4-chlorophenyl)-2-nitroethyl)-1H-indole | 0.175 g, 45.2% | BrC1=CC=C2C(=CNC2=C1)C(C[N+](=O)[O-])C1=CC=C(C=C1)Cl | C16H12BrClN2O2
